US03983164
To a solution of ethyl 4-hydroxybenzoate (8.3g) in sodium ethoxide solution (1.15g. sodium in 70 ml. of absolute ethanol) was added p-chlorobenzylchloride (8.1g.) in one portion. The mixture was heated under reflux for 16 hours, allowed to cool and poured into water (500 mls.) and the product extracted into ether. The organic layer was separated and dried (anhydrous MgSO4) and filtered. Evaporation of the solvent under reduced pressure gave the crude product which on recrystallization from methanol, yielded by 4-ethoxycarbonylphenoxy-4-chlorophenyl methane (8.5g.), m.pt. 83°-84°C.

reactant | ethyl 4-hydroxybenzoate | 8.3g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | p-chlorobenzylchloride | 8.1g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | water | 500 mls | O | H2O
solvent | sodium ethoxide | 70 ml, 1.15g | [O-]CC.[Na+]
product | 4-ethoxycarbonylphenoxy-4-chlorophenyl methane | 8.5g | C(C)OC(=O)C1=CC=C(OCC2=CC=C(C=C2)Cl)C=C1 | C16H15ClO3
